US07238808B2
5-Ethynyl-thiophene-2-sulfonic acid amide
Prepared from 5-bromo-thiophene-2-sulfonic acid amide (1.94 g, 8 mmol) and trimethylsilylacetylene (2.2 mL, 12 mmol) by applying in analogous manner the procedures described in example D.1 (method 1, steps 1–2). Obtained after chromatographic purification of the crude product (SiO2, 0–75% AcOEt/heptane) as a light brown solid (0.49 g, 33%). MS (ISP) 186.1 [(M−H)−]; mp 114–116° C.

reactant | 5-bromo-thiophene-2-sulfonic acid amide | 8 mmol, 1.94 g | BrC1=CC=C(S1)S(=O)(=O)N | C4H4BrNO2S2
reactant | trimethylsilylacetylene | 12 mmol, 2.2 mL | C[Si](C)(C)C#C | C5H10Si
product | 5-Ethynyl-thiophene-2-sulfonic acid amide | C(#C)C1=CC=C(S1)S(=O)(=O)N | C6H5NO2S2
